US05075327
To a solution of 7.3 g (20.7 mmole) of [R-(R*,S*)]-3-[4-[(tetrahydro-2H-pyran-2yl)oxy]butyl]-2-methyl-2-cyclohexene-1-propanol acetate in 68 ml of absolute ethanol was added 530 mg (2.1 mmole) of pyridinium p-toluenesulfonate and the homogeneous solution heated at 50° C. for 4 hours. The cooled reaction mixture was poured into 280 ml of water and extracted with 3×350 ml of ether. The combined organic extracts were washed with NaHCO3, brine, dried over MgSO4, filtered and concentrated. The crude product was chromatographed on a silica gel column (5:1, hexane/EtOAc) to give 4.3 g (78%) of (R)-3-[3-(acetyloxy)propyl]-2-methyl-1-cyclohexene-1-butanol as an oil.

reactant | 3-[4-[(tetrahydro-2H-pyran-2yl)oxy]butyl]-2-methyl-2-cyclohexene-1-propanol acetate | C(C)(=O)OCCCC1C(=C(CCC1)CCCCOC1OCCCC1)C | C21H36O4
reactant | pyridinium p-toluenesulfonate | 2.1 mmole, 530 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | water | 280 ml | O | H2O
solvent | ethanol | 68 ml | C(C)O | C2H6O
product | (R)-3-[3-(acetyloxy)propyl]-2-methyl-1-cyclohexene-1-butanol | 4.3 g, 78% | C(C)(=O)OCCC[C@@H]1C(=C(CCC1)CCCCO)C | C16H28O3
